US04758572
2-Acetylpyridine 4-(2-morpholinoethyl)thiosemicarbazone
A mixture of 6.00 g (0.0294 mole) of 4-(2-morpholinoethyl)thiosemicarbazide, 3.91 g (0.0323 mole) of 2-acetylpyridine, 20 mL of 95% ethanol, and 0.4 mL of glacial acetic acid was heated under reflux for 1.25 hours. The mixture then stood overnight at room temperature. Colourless crystals were collected and recrystallised from 40 mL of 95% ethanol; yield 7.81 g (86%) of pale yellow crystals of 2-acetylpryridine 4-(2-morpholinoethyl)thiosemicarbazone, mp 167.5°-169° C.

reactant | 4-(2-morpholinoethyl)thiosemicarbazide | 0.0294 mole, 6.00 g | O1CCN(CC1)CCNC(NN)=S | C7H16N4OS
reactant | 2-acetylpyridine | 0.0323 mole, 3.91 g | C(C)(=O)C1=NC=CC=C1 | C7H7NO
reactant | ethanol | 20 mL | C(C)O | C2H6O
solvent | acetic acid | 0.4 mL | C(C)(=O)O | C2H4O2
product | 2-Acetylpyridine 4-(2-morpholinoethyl)thiosemicarbazone | O1CCN(CC1)CCNC(NN=C(C)C1=NC=CC=C1)=S | C14H21N5OS
